US06627629B2
Part C: Preparation of 5-phenoxycarbonylamino-indazole-1-carboxylic acid t-butyl ester
In a dry flask 5-amino-indazole-1-carboxylic acid t-butyl ester (1.4 g, 6.0 mmol) was dissolved in tetrahydrofuran (20 mL) and triethylamine (1.0 g, 9.9 mmol) were added and the reaction mixture cooled to 0° C. Phenyl chloroformate (1.0 g, 6.4 mmol) was added dropwise and the mixture was stirred an additional 15 minutes after the addition was complete. The reaction mixture was diluted with ethyl acetate, washed with water, and concentrated in vacuo. The crude material was purified by flash chromatography with 35% ethyl acetate in hexanes to give a white solid (1.9 g, 90%). 1H NMR (300 MHz, CDCl3), δ: 8.14 (d, J=10, 1H), 8.12 (s, 1H), 8.02 (bs, 1H), 7.40 (m, 3H), 7.24 (m, 4H), 1.73 (s, 9H).

reactant | 5-amino-indazole-1-carboxylic acid t-butyl ester | 6.0 mmol, 1.4 g | C(C)(C)(C)OC(=O)N1N=CC2=CC(=CC=C12)N | C12H15N3O2
reactant | triethylamine | 9.9 mmol, 1.0 g | C(C)N(CC)CC | C6H15N
reactant | Phenyl chloroformate | 6.4 mmol, 1.0 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-phenoxycarbonylamino-indazole-1-carboxylic acid t-butyl ester | 1.9 g, 90% | C(C)(C)(C)OC(=O)N1N=CC2=CC(=CC=C12)NC(=O)OC1=CC=CC=C1 | C19H19N3O4
